US05153210
To a solution of methyl 4-[2-[(3-trifloromethyl-β-hydroxyphenethyl)amino]propyl]mandelate (1.5 g) and guanidine hydrochloride (0.35 g) in methanol at room temperature was added a solution of sodium (0.084 g) in methanol. The solution was heated under reflux for 2 h., cooled, filtered and the solvent removed in vacuo. The residue was partitioned between ethyl acetate, and water, the organic layer separated, dried (magnesium sulphate), and evaporated to an oil which was chromatographed on silica. Elution with chloroform:methanol (95:5) gave 2-amino 5-[4-[2[(3-trifluoromethyl-β-hydroxyphenethyl)amino]propyl]phenyl]oxazol-4-one (0.45 g) as a 40:60 mixture of diastereoisomers, m.p. 152°-164° C. (acetone).

reactant | methyl 4-[2-[(3-trifloromethyl-β-hydroxyphenethyl)amino]propyl]mandelate | 1.5 g | FC(C=1C=C(C(CNC(CC2=CC=C(C(C(=O)OC)O)C=C2)C)O)C=CC1)(F)F | C21H24F3NO4
reactant | guanidine hydrochloride | 0.35 g | Cl.NC(=N)N
reactant | sodium | 0.084 g | [Na] | Na
solvent | methanol | CO | CH4O
product | 2-amino 5-[4-[2[(3-trifluoromethyl-β-hydroxyphenethyl)amino]propyl]phenyl]oxazol-4-one | 0.45 g | NC=1OC(C(N1)=O)C1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)C(F)(F)F)O | C21H22F3N3O3
